US04009178
12.3 g (0.11 mol) 4,4-dimethyl-2-oxazolidinone was dissolved in 180 ml of 1 M sodium hydroxide and the resulting solution was cooled to 0°. 19.2 g (0.012 mol) bromine was added dropwise with stirring over 0.25 hr and the reaction mixture was stirred at 0° for an additional 0.75 hr. The N-bromamine separated from the reaction mixture as an orange colored solid. The solid was isolated by filtration and thoroughly washed with cold water. Trituration of this material in petroleum ether (30°-60°) gave 16.2 g (0.084 mol), 76%, 3-bromo-4,4-dimethyl-2-oxazolidinone (NBDMO), mp 118°-120°; uv (H2O) λmax 274 nm, ε= 201 M-1 cm-1 ; ir (KBr): 2985, 1725, 1370, 1290, 1200, 1165, 1040 and 740 cm-1 ; pmr (CDCl3) δ 4.27 (s, 2H) and 1.33 (s, 6H) ppm.

reactant | 4,4-dimethyl-2-oxazolidinone | 0.11 mol, 12.3 g | CC1(NC(OC1)=O)C | C5H9NO2
reactant | bromine | 0.012 mol, 19.2 g | BrBr | Br2
solvent | sodium hydroxide | 1 M, 180 ml | [OH-].[Na+]
product | 3-bromo-4,4-dimethyl-2-oxazolidinone | BrN1C(OCC1(C)C)=O | C5H8BrNO2
